US05202441
Di-[4-(N-(2,2,6,6-tetramethylpiperidin-4-yl)-N-hydroxyaminomethyl)benzyl] sebacate
from 2,2,6,6-tetramethylpiperidin-4-one oxime and di-(4-bromomethylbenzyl) sebacate

reactant | 2,2,6,6-tetramethylpiperidin-4-one oxime | CC1(NC(CC(C1)=NO)(C)C)C | C9H18N2O
reactant | di-(4-bromomethylbenzyl) sebacate | C(CCCCCCCCC(=O)OCC1=CC=C(C=C1)CBr)(=O)OCC1=CC=C(C=C1)CBr | C26H32Br2O4
product | Di-[4-(N-(2,2,6,6-tetramethylpiperidin-4-yl)-N-hydroxyaminomethyl)benzyl] sebacate | C(CCCCCCCCC(=O)OCC1=CC=C(C=C1)CN(O)C1CC(NC(C1)(C)C)(C)C)(=O)OCC1=CC=C(C=C1)CN(O)C1CC(NC(C1)(C)C)(C)C | C44H70N4O6
